US06020345
Stage 2: 2-cyclopropyl-6-[1,3]dioxolan-2-yl-pyridine
5.60 ml of a 1.6 M solution of n-butyllithium in hexane are introduced dropwise into a suspension of 2.71 g of trimethylsulfonium iodide (13.3 mmol) in 25 ml of tetrahydrofuran cooled to -15° C. The solution is stirred at -15° C. for 20 minutes under nitrogen, and then a solution of 1.57 g of 2-[1,3]dioxolan-2-yl-6-vinylpyridine (8.90 mmol) in 5 ml of tetrahydrofuran is added dropwise. After stirring for 1 hour at -15° C., the suspension is stirred for 3 hours at room temperature. The tetrahydrofuran is evaporated off, the residue is taken up in water and the mixture is extracted with ethyl acetate. The organic phase is washed with a saturated aqueous solution of sodium chloride, dried over magnesium sulfate, filtered and concentrated under vacuum. The title product is isolated by chromatography on a silica column (eluent: hexane/ethyl acetate; 50:50). 1.24 g of a colorless oil are obtained.

reactant | n-butyllithium | C(CCC)[Li]
reactant | trimethylsulfonium iodide | 13.3 mmol, 2.71 g | [I-].C[S+](C)C
reactant | 2-[1,3]dioxolan-2-yl-6-vinylpyridine | 8.90 mmol, 1.57 g | O1C(OCC1)C1=NC(=CC=C1)C=C | C10H11NO2
solvent | hexane | CCCCCC | C6H14
solvent | tetrahydrofuran | 25 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
product | 2-cyclopropyl-6-[1,3]dioxolan-2-yl-pyridine | C1(CC1)C1=NC(=CC=C1)C1OCCO1 | C11H13NO2
